US09085555B2
A. 2,2′-Difluoro-3-nitro-biphenyl
To a solution of 1-bromo-2-fluoro-3-nitrobenzene [58534-94-4] (150 mg, 0.68 mmol) and 2-fluorophenylboronic acid [1193-03-9] (191 mg, 1.36 mmol) in dioxane (4 mL) and water (1 mL) was added potassium carbonate (236 mg, 1.70 mmol) and Pd(dppf)Cl2CH2Cl2 adduct (55.7 mg, 0.068 mmol). The solution was heated for 30 min at 100° C. under microwave irradiation. The reaction mixture was diluted with CH2Cl2 and the resulting solution was washed successively with saturated aqueous NaHCO3 solution, 1N HCl solution and brine, then dried (Phase separator) and concentrated under reduced pressure. The residue was purified by preparative HPLC (Waters Sunfire, C18-ODB, 5 μm, 30×100 mm, flow: 40 mL/min, eluent: 20-100% CH3CN/H2O/20 min, 100% CH3CN/2 min, CH3CN and H2O containing 0.1% TFA) to give after lyophilization of the purified fractions the title compound. MS (LC-MS): 236 [M+H]+; tR (HPLC conditions k): 3.81 min.

reactant | 1-bromo-2-fluoro-3-nitrobenzene | 0.68 mmol, 150 mg | BrC1=C(C(=CC=C1)[N+](=O)[O-])F | C6H3BrFNO2
reactant | 2-fluorophenylboronic acid | 1.36 mmol, 191 mg | FC1=C(C=CC=C1)B(O)O | C6H6BFO2
reactant | potassium carbonate | 1.70 mmol, 236 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
solvent | water | 1 mL | O | H2O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2,2′-Difluoro-3-nitro-biphenyl | FC1=C(C=CC=C1[N+](=O)[O-])C1=C(C=CC=C1)F | C12H7F2NO2
